US06586424B2
2-[6-(4-Methyl-5-oxo-[1,4]diazepan-1-ylmethyl)-pyridin-2-ylamino]-thiazole-5-carbonitrile (11-4)
4-Methyl-[1,4]diazepan-5-one hydrochloride (0.092 g, 0.028 mmol) was dissolved in 1 mL DMSO. Triethylamine (0.12 mL, 0.84 mmol) was added followed by the addition 2-(6-Chloromethyl-pyridin-2-ylamino)-thiazole-5-carbonitrile (0.070 g, 0.28 mmol). The solution as stirred for 2 h. The reaction mixture was purified directly by loading the solution onto a reverse phase preparative column. The fractions containing pure product were concentrated and the white solid that resulted was characterized as the TFA salt. 1H NMR (CD3OD) δ 8.07 (s, 1H), 7.91 (dd, 1H, J=7.5, 8.2 Hz), 7.30 (d, 1H, J=7.3 Hz), 7.19 (d, 1H, J=8.4 Hz), 4.56 (s, 2H), 3.83 (bs, 2H), 3.64 (bs, 4H), 3.01 (s, 3H), 2.93 (bs, 2H). MS [M+H]+=343.2.

reactant | 4-Methyl-[1,4]diazepan-5-one hydrochloride | 0.028 mmol, 0.092 g | Cl.CN1CCNCCC1=O
reactant | Triethylamine | 0.84 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(6-Chloromethyl-pyridin-2-ylamino)-thiazole-5-carbonitrile | 0.28 mmol, 0.070 g | ClCC1=CC=CC(=N1)NC=1SC(=CN1)C#N | C10H7ClN4S
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 2-[6-(4-Methyl-5-oxo-[1,4]diazepan-1-ylmethyl)-pyridin-2-ylamino]-thiazole-5-carbonitrile | CN1CCN(CCC1=O)CC1=CC=CC(=N1)NC=1SC(=CN1)C#N | C16H18N6OS
